US07138414B2
d) 2-chloro-5-(5,6-dimethyl-[1,2,4]triazin-3-yl)phenylamine
This compound was obtained by reducing 3-(4-chloro-3-nitrophenyl)-5,6-dimethyl-[1,2,4]triazine with tin chloride.

reactant | 3-(4-chloro-3-nitrophenyl)-5,6-dimethyl-[1,2,4]triazine | ClC1=C(C=C(C=C1)C=1N=NC(=C(N1)C)C)[N+](=O)[O-] | C11H9ClN4O2
reactant | tin chloride | [Sn](Cl)(Cl)(Cl)Cl
product | 2-chloro-5-(5,6-dimethyl-[1,2,4]triazin-3-yl)phenylamine | ClC1=C(C=C(C=C1)C=1N=NC(=C(N1)C)C)N | C11H11ClN4
